US07732463B2
1-Bromo-2-(4-chloro-phenylsulfanyl)-5-fluoro-benzene (intermediate for 2c).
Prepared from 4-chloro-benzenethiol and 2-bromo-4-fluoro-1-iodo-benzene.

reactant | 4-chloro-benzenethiol | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | 2-bromo-4-fluoro-1-iodo-benzene | BrC1=C(C=CC(=C1)F)I | C6H3BrFI
product | 1-Bromo-2-(4-chloro-phenylsulfanyl)-5-fluoro-benzene | BrC1=C(C=CC(=C1)F)SC1=CC=C(C=C1)Cl | C12H7BrClFS
